US08466288B2
As shown in step 3(a)-v of Scheme 3(a), 5-bromo-3-(difluoromethoxy)pyridin-2-ol (300 mg; 1.25 mmol) was dissolved in 5 mL of chloroform. Silver carbonate (690 mg; 2.5 mmol) and methyl iodide (780 μL; 1.77 g; 12.5 mmol) were added and the mixture stirred at RT overnight. The reaction mixture was filtered through diatomaceous earth, which was washed with additional CHCl3. The filtrates were concentrated under reduced pressure to yield an oil which was purified by silica gel chromatography to yield 5-bromo-3-(difluoromethoxy)-2-methoxypyridine as a white solid (Compound 2010, 250 mg, 78% yield): ESMS (M+H) 254/256; 1H NMR (CDCl3) δ 8.08 (d, 1H, J=2.1 Hz), 7.56 (d, 1H, J=2.1 Hz), 6.60 (t, 1H, J=75 Hz), 3.98 (s, 3H).

reactant | 5-bromo-3-(difluoromethoxy)pyridin-2-ol | 1.25 mmol, 300 mg | BrC=1C=C(C(=NC1)O)OC(F)F | C6H4BrF2NO2
reactant | methyl iodide | 12.5 mmol, 780 μL, 1.77 g | CI | CH3I
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | Silver carbonate | 2.5 mmol, 690 mg | C([O-])([O-])=O.[Ag+2]
product | 5-bromo-3-(difluoromethoxy)-2-methoxypyridine | BrC=1C=C(C(=NC1)OC)OC(F)F | C7H6BrF2NO2
